US08008303B2
Furan-2-carboxylic acid [2-methyl-3′-(4-morpholin-4-yl -phenylcarbamoyl)-biphenyl-4-yl]-amide
A solution of 4′-amino-2′-methyl-biphenyl-3-carboxylic acid (4-morpholin-4-yl-phenyl)-amide (40 mg) and triethylamine (0.4 ml) in dry DMF (3 ml) was treated with furan-2-carbonyl chloride (0.015 ml) and the mixture stirred at 20 C for 18 h. The mixture was then partitioned between water and dichloromethane. The dried extract was then evaporated and the residue purified on silica gel. Elution with dichloromethane:ethanol:0.880 ammonia; 400:8:1 gave a colourless foam (46 mg).

reactant | 4′-amino-2′-methyl-biphenyl-3-carboxylic acid (4-morpholin-4-yl-phenyl)-amide | 40 mg | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)N)C | C24H25N3O2
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | furan-2-carbonyl chloride | 0.015 ml | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | Furan-2-carboxylic acid [2-methyl-3′-(4-morpholin-4-yl -phenylcarbamoyl)-biphenyl-4-yl]-amide | 46 mg | CC1=C(C=CC(=C1)NC(=O)C=1OC=CC1)C1=CC(=CC=C1)C(NC1=CC=C(C=C1)N1CCOCC1)=O | C29H27N3O4
